US04587360
N-[3-[[2-(3,4-dimethoxyphenyl)ethyl]methylamino]propyl]-N-(1-methylethyl)-2,3,4-trimethoxy-benzene sulfonamide
N-isopropyl-N-(3-oxopropyl)-2,3,4-trimethoxybenzenesulfonamide prepared in the previous paragraph (7.50 g, 0.0384 m), N-methyl-homoveratrylamine (6.83 g, 0.350 m) in absolute ethanol (100 ml) containing PtO2 (0.5 g) was shaken under hydrogen all day. The crude product (8.01 g) obtained from this procedure after chromatography gave the pure title compound, a white gum (5.71 g).

reactant | N-isopropyl-N-(3-oxopropyl)-2,3,4-trimethoxybenzenesulfonamide | C(C)(C)N(S(=O)(=O)C1=C(C(=C(C=C1)OC)OC)OC)CCC=O | C15H23NO6S
reactant | N-methyl-homoveratrylamine | 6.83 g | CNCCC1=CC(OC)=C(OC)C=C1 | C11H17NO2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | PtO2 | 0.5 g | O=[Pt]=O
product | N-[3-[[2-(3,4-dimethoxyphenyl)ethyl]methylamino]propyl]-N-(1-methylethyl)-2,3,4-trimethoxy-benzene sulfonamide | COC=1C=C(C=CC1OC)CCN(CCCN(S(=O)(=O)C1=C(C(=C(C=C1)OC)OC)OC)C(C)C)C | C26H40N2O7S
